US04476040
Formrylation. 1-Hydroxy-3,4,5,5,8,8-hexamethyl-5,6,7,8-tetrahydronaphthalene (15 g, 0.0646 mol) was stirred with glacial acetic acid (100 mL), and hexamethylenetetramine (15 g, 0.107 mol) was added in one portion. The mixture was heated at 100° C. for 2 h. Hot water (100 mL) was added and the heating continued for an additional 0.5 h at 100° C. The mixture was cooled to 20° C., toluene (25 mL) was added, and the mixture was stirred vigorously. The organic layer was separated, washed with water (2×10 mL), then neutralized with 5% NaHCO3 solution and finally washed with brine (10 mL). The solvent was removed by distillation, and the residue crystallized from hexane, to give 2-formyl-1-hydroxy-3,4,5,5,8,8-hexamethyl-5,6,7,8-tetrahydronaphthalene (8.8 g), GLC purity 94%. 1H-NMR (CDCl3) δ12.94 (1H, s), 10.36 (1H, s), 2.43 (3H, s), 2.36 (3H, s), 1.65 (4H, s), 1.48 (6H, s), 1.46 (6H, s). 13C-NMR (CDCl3) δ195.4 (1C, d), 161.4 (1C, s), 156.0 (1C, s), 138.0 (1C, s), 131.9 (1C, s), 126.6 (1C, s), 116.7 (1C, s), 40.2 (1C, t), 37.9 (1C, t), 36.5 (1C, s), 35.1 (1C, s), 29.5 (2C, q), 28.1 (2C, q), 19.3 (1C, q), 14.1 (1C, q). IR (KBr) 1628 cm-1, MS (m/e) 260.3 (M+, 38.6), 245.2 (100.0), 175.1 (28.7), 189.1 (20.1).

reactant | 1-Hydroxy-3,4,5,5,8,8-hexamethyl-5,6,7,8-tetrahydronaphthalene | 0.0646 mol, 15 g | OC1=CC(=C(C=2C(CCC(C12)(C)C)(C)C)C)C | C16H24O
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
reactant | hexamethylenetetramine | 0.107 mol, 15 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | water | 100 mL | O | H2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2-formyl-1-hydroxy-3,4,5,5,8,8-hexamethyl-5,6,7,8-tetrahydronaphthalene | 8.8 g | C(=O)C1=C(C=2C(CCC(C2C(=C1C)C)(C)C)(C)C)O | C17H24O2
